US06967196B1
To a solution of 4-chloro-N-[5-chloro-2-fluorophenyl]-N-[(R)-1-methyl-4-hydroxybutyl]-benzenesulfonamide (336 mg, 0.827 mmol) in acetonitrile (4 mL) was added triphenylphosphine (433 mg, 1.65 mmol) and carbon tetrabromide (548 mg, 1.65 mmol) at 0° C. The resulting mixture was allowed to stir at 22° C. for 12 h followed by the addition of 25 mL of sat. ammonium chloride. The product was extracted with ether (2×25 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (1:4 ethyl acetate:hexanes) of the concentrate afforded 349 mg of 4-chloro-N-[5-chloro-2-fluorophenyl]-N-[(R)-1-methyl-4-bromobutyl]benzenesulfonamide as a yellow oil in 88% yield.

reactant | 4-chloro-N-[5-chloro-2-fluorophenyl]-N-[(R)-1-methyl-4-hydroxybutyl]-benzenesulfonamide | 0.827 mmol, 336 mg | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCO)C)C1=C(C=CC(=C1)Cl)F | C17H18Cl2FNO3S
reactant | triphenylphosphine | 1.65 mmol, 433 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.65 mmol, 548 mg | C(Br)(Br)(Br)Br | CBr4
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 4-chloro-N-[5-chloro-2-fluorophenyl]-N-[(R)-1-methyl-4-bromobutyl]benzenesulfonamide | 349 mg, 88% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCBr)C)C1=C(C=CC(=C1)Cl)F | C17H17BrCl2FNO2S
